US06486342B1
To a stirring solution of 2-{4-[(3,5-Dimethyl-phenylcarbamoyl)-hydroxy-methyl]-phenoxy}-2-methyl-propionic acid ethyl ester (1.4 g, 3.6 mmol), in dry diethyl ether (10 mL) under nitrogen at 0° C. was added lead tribromide in methylene chloride (4.4 mL, 4.4 mmol) drop wise. The reaction mixture was further stirred at room temperature for 4 hr and concentrated. Water (100 mL) added and the product extracted with Ethyl acetate (3×50 mL), dried and evaporated to yield 1.0 g of 2-{4-[bromo-(3,5-dimethyl-phenylcarbamoyl)-ethoxy-methyl]-phenoxy}-2-methyl-propionic acid ethyl ester.

reactant | 2-{4-[(3,5-Dimethyl-phenylcarbamoyl)-hydroxy-methyl]-phenoxy}-2-methyl-propionic acid ethyl ester | 3.6 mmol, 1.4 g | C(C)OC(C(C)(C)OC1=CC=C(C=C1)C(O)C(NC1=CC(=CC(=C1)C)C)=O)=O | C22H27NO5
reactant | lead tribromide | [Pb](Br)(Br)Br
reactant | methylene chloride | 4.4 mmol, 4.4 mL | C(Cl)Cl | CH2Cl2
reactant | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 2-{4-[bromo-(3,5-dimethyl-phenylcarbamoyl)-ethoxy-methyl]-phenoxy}-2-methyl-propionic acid ethyl ester | 1.0 g | C(C)OC(C(C)(C)OC1=CC=C(C=C1)C(OCC)(C(NC1=CC(=CC(=C1)C)C)=O)Br)=O | C24H30BrNO5
